US08647882B2
(1) Synthesis of (3S)-3-(2-(R,S)-hydroxydodecylamino)-3-phenylpropionic Acid
27.01 g of sodium methoxide and 82.6 g of (S)-3-amino-3-phenylpropionic acid were dissolved in 800 ml of methanol. After adding 92 g of 1,2-epoxydodecane, the solution was stirred at room temperature for 20 h. Subsequently, the pH of the solution was adjusted to pH 6 with methanolic hydrochloric acid and the sodium chloride which crystallized out filtered off. After the methanol was distilled off, an oily residue remained, which crystallized in the course of stirring with 700 ml of acetone. This resulted in 153.4 g of colorless crystals. 1H NMR (DMSO) δ (ppm): 0.85 (t, 3H), 1.13-1.31 (m, 18H), 2.28/2.60/2.70/2.86 (m, 2H), 3.02 (m, 1H), 3.34 (m, 1H), 3.66-3.78 (m, 1H), 4.57 (m, 1H), 5.20/5.29 (s, br., 1H, OH), 7.42 (m, 3H), 7.60 (m, 2H), 9.40 (s, br., 2H, NH2+), 12.56 (s, 1H, CO2H)

reactant | sodium methoxide | 27.01 g | C[O-].[Na+]
reactant | (S)-3-amino-3-phenylpropionic acid | 82.6 g | N[C@@H](CC(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | 1,2-epoxydodecane | 92 g | O1CC1CCCCCCCCCC | C12H24O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 800 ml | CO | CH4O
product | (3S)-3-(2-(R,S)-hydroxydodecylamino)-3-phenylpropionic Acid | 153.4 g | OC(CN[C@@H](CC(=O)O)C1=CC=CC=C1)CCCCCCCCCC | C21H35NO3
